US08471005B2
Into a 8-dram vial, N-[2-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (0.350 g, 1.10 mmol) was suspended in Methylene chloride (15.9 mL, 248 mmol), and N,N-Diisopropylethylamine (0.766 mL, 4.40 mmol). The mixture was stirred for 10 minutes. Trifluoromethanesulfonic anhydride (0.444 mL, 2.64 mmol) was added dropwise. The homogenous mixture was stirred at room temperature for one hour. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant (20 to 100% EtOAc). The collected fractions afforded Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester as a yellow solid (220 mg, 44%).

reactant | N-[2-(2-Hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 1.10 mmol, 0.350 g | OC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C14H14N4O3S
reactant | Methylene chloride | 248 mmol, 15.9 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-Diisopropylethylamine | 4.40 mmol, 0.766 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Trifluoromethanesulfonic anhydride | 2.64 mmol, 0.444 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 220 mg, 44% | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
